US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-ethoxycarbonylphenyl)benzamide (493 mg) in tetrahydrofuran (20 ml) was cooled in an ice bath. Lithium aluminum hydride (1M solution in tetrahydrofuran, 2.5 ml) was added dropwise to the solution and the mixture was stirred at the same temperature for 2 hours. Water was slowly added to the solution and resulting mixture was acidified with 1N hydrochloric acid. The solution was extracted with chloroform and the organic solution was washed with water and brine, and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to silica gel column (20 g, 2% methanol in chloroform). The product was solidified with diethyl ether to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-hydroxymethylphenyl)benzamide (245 mg) as a white powder.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-ethoxycarbonylphenyl)benzamide | 493 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)C(=O)OCC)C)C=C1 | C31H28N2O4
reactant | Lithium aluminum hydride | 1M, 2.5 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-(2-hydroxymethylphenyl)benzamide | 245 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)CO)C)C=C1 | C29H26N2O3
